US06025370
In 4 ml of ethanol was suspended 1.00 g of ethyl (-)-1-cyclopropyl-8-difluoromethoxy-7-(1-methyl-2-tritylisoindolin-5-yl)-1,4-dihydro-4-oxoquinoline-3-carboxylate, followed by adding thereto 0.26 ml of 6N hydrochloric acid, and the resulting mixture was stirred at room temperature for 30 minutes. The reaction mixture was filtered, after which 0.75 ml of a 5N aqueous sodium hydroxide solution was added to the filtrate and the resulting mixture was stirred at room temperature for 1 hour. To the reaction mixture was added 16 ml of water, followed by filtration. Carbon dioxide was bubbled into the filtrate and the crystals were collected by filtration to obtain 0.56 g of light-yellow (-)-1-cyclopropyl-8-difluoromethoxy-7-(1-methyl-isoindolin-5-yl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid.

reactant | ethyl (-)-1-cyclopropyl-8-difluoromethoxy-7-(1-methyl-2-tritylisoindolin-5-yl)-1,4-dihydro-4-oxoquinoline-3-carboxylate | 1.00 g | C1(CC1)N1C=C(C(C2=CC=C(C(=C12)OC(F)F)C=1C=C2CN(C(C2=CC1)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)OCC | C44H38F2N2O4
reactant | hydrochloric acid | 6N, 0.26 ml | Cl | ClH
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | (-)-1-cyclopropyl-8-difluoromethoxy-7-(1-methyl-isoindolin-5-yl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.56 g | C1(CC1)N1C=C(C(C2=CC=C(C(=C12)OC(F)F)C=1C=C2CNC(C2=CC1)C)=O)C(=O)O | C23H20F2N2O4
